US06774132B1
5-Fluorospiro[indoline-3,3′-piperidin]-2-one Hydrochloride
t-Butyl 3-(2-bromo-4-fluorophenylcarbamoyl)-1,2,5,6-tetrahydropyridine-1-carboxylate. 2-Bromo-4-fluoroaniline (2.53 g, 13.3 mmol) was dissolved in dichloromethane (30 mL) under N2-atmosphere and trimethylaluminium (2.0 M in hexanes, 8 mL) was added. The solution was stirred during 15 minutes, whereupon a solution of 5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-t-butyl ester 3-methyl ester (3.67 g, 13.3 mmol) in DCM (20 mL) was added. The mixture was refluxed overnight and saturated NaHCO3 was carefully added followed by DCM. The aqueous phase was extracted with DCM. The crude product was purified by chromatography on silica gel using a gradient of toluene to acetonitrile to give the title compound (4.55 g) in 86% yield as an yellow oil. Rf 0.54 (toluene/acetonitrile 3:1). MS(TSP+) m/z calcd for [M+NH4]+: 416, 418, observed: 416, 418.

reactant | t-Butyl 3-(2-bromo-4-fluorophenylcarbamoyl)-1,2,5,6-tetrahydropyridine-1-carboxylate | BrC1=C(C=CC(=C1)F)NC(=O)C=1CN(CCC1)C(=O)OC(C)(C)C | C17H20BrFN2O3
reactant | 2-Bromo-4-fluoroaniline | 13.3 mmol, 2.53 g | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
reactant | trimethylaluminium | 2.0 M, 8 mL | C[Al](C)C
reactant | 5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-t-butyl ester 3-methyl ester | 13.3 mmol, 3.67 g | COC(=O)C=1CN(CCC1)C(=O)OC(C)(C)C | C12H19NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluorospiro[indoline-3,3′-piperidin]-2-one Hydrochloride | 4.55 g, 86% yield | Cl.FC=1C=C2C(=CC1)NC(C21CNCCC1)=O | InChI=1S/C12H13FN2O.ClH/c13-8-2-3-10-9(6-8)12(11(16)15-10)4-1-5-14-7-12;/h2-3,6,14H,1,4-5,7H2,(H,15,16);1H
